US04140775
To a suspension of 1-(4-fluorophenyl)-4-[ (4-nitrophenyl)methyl ]piperazine (1.5 g, 0.005 M) in 15 ml of anhydrous ether is added dropwise a solution of 15 ml of titanium trichloride in water (20% solution in water), under nitrogen at room temperature. After complete addition, the mixture is quenched with 10% ammonium hydroxide solution and extracted with methylene chloride. The methylene chloride solution is washed with water, dried (anhydrous sodium sulfate), and concentrated to a yellow solid. This, after recrystallization from ethyl acetate/Skellysolve® B, gives 900 mg (64%) of white crystalline 1-[ (4-aminophenyl)methyl ]-4-(4-fluorophenyl)piperazine of melting point 130° - 132° C.

reactant | 1-(4-fluorophenyl)-4-[ (4-nitrophenyl)methyl ]piperazine | 0.005 M, 1.5 g | FC1=CC=C(C=C1)N1CCN(CC1)CC1=CC=C(C=C1)[N+](=O)[O-] | C17H18FN3O2
solvent | ether | 15 ml | CCOCC | C4H10O
solvent | water | O | H2O
catalyst | titanium trichloride | 15 ml | [Cl-].[Cl-].[Cl-].[Ti+3]
product | 1-[ (4-aminophenyl)methyl ]-4-(4-fluorophenyl)piperazine | 900 mg, 64% | NC1=CC=C(C=C1)CN1CCN(CC1)C1=CC=C(C=C1)F | C17H20FN3
